US09340506B2
Ethyl 2-[2-[tert-butoxycarbonyl-[(4-methoxyphenyl)methyl]amino]thiazol-4-yl]-2-isopropoxy-acetate (0.55 g, 1.2 mmol) was dissolved in TFA (7 mL). The reaction mixture was refluxed for 5 hours. TFA was removed under reduced pressure. The residue was diluted with water (10 mL) and ethyl acetate (15 mL) and basified with sodium bicarbonate. The organic layer was separated and aqueous layer was again extracted with ethyl acetate (15 mL). The combined organic layer was washed with brine, dried over sodium sulphate and concentrated under reduced pressure to obtain crude product which was purified by silica gel column chromatography using 20% ethyl acetate in hexane to provide ethyl 2-(2-aminothiazol-4-yl)-2-isopropoxy-acetate (0.22 g).

reactant | Ethyl 2-[2-[tert-butoxycarbonyl-[(4-methoxyphenyl)methyl]amino]thiazol-4-yl]-2-isopropoxy-acetate | 1.2 mmol, 0.55 g | C(C)(C)(C)OC(=O)N(C=1SC=C(N1)C(C(=O)OCC)OC(C)C)CC1=CC=C(C=C1)OC | C23H32N2O6S
solvent | TFA | 7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | ethyl 2-(2-aminothiazol-4-yl)-2-isopropoxy-acetate | 0.22 g | NC=1SC=C(N1)C(C(=O)OCC)OC(C)C | C10H16N2O3S
